US05436246
2-[4-(4-phenethyl-piperazin-1-yl)-benzo[b]thiophen-2-ylmethyl]-isoindole-1,3-dione hydrochloride
Anhydrous tetrahydrofuran (30 mL) was added to a flask containing 4- [4- (2-phenylethyl ) -1-piperazinyl]benzo[b]thiophene-2-methanol (3.20 g, 9.08 mmol), triphenylphosphine (2.50 g, 9.53 mmol) and phthalimide (1.40 g, 9.53 mmol). The reaction was cooled to 0° C. in an ice bath and diethyl azodicarboxylate (1.5 mL, 9.53 mmol) was added over 3 min. The bath was removed after stirring under nitrogen for 20 min and allowed to stir at room temperature for 15.5 h. The reaction was concentrated in vacuo and the crude product was chromatographed using 40:60 ethyl acetate:hexane. The component with Rf of ca. 0.4 was isolated. The compound was rechromatographed to remove a by product using 95:5 dichloromethane:acetone, then using 5:95 acetic acid: ethyl acetate. the component with Rf of ca. 0.3 was isolated (3.26 g), along with acetic acid. The compound was dissolved in dichloromethane (75 mL), washed with saturated aqueous sodium bicarbonate (50 mL), dried over magnesium sulfate/sodium sulfate, filtered and concentrated in vacuo (2.80 g). A solution of product (1.00 g, 2.08 mmol) in a mixture of ethanol (50 mL) and dichloromethane (50 mL) was treated with 1.0M aqueous hydrochloric acid (2.10 mL) and concentrated in vacuo. The resulting solid was recrystallized from a mixture of methanol (50 mL), dichloromethane (80 mL) and water (8 drops) to yield the title compound (0.87 g). 1H NMR (DMSO-d6 +CD3OD+D2O): 7.85 (4H, m), 7.54 (1H, d, J=7.8 Hz), 7.45 (1H, s), 7.31 (6H, m), 6.96 (1H, d, J=7.8 Hz), 5.04 (2H, s), 3.60-3.10 (10H), 3.01 (2H, m) ppm. 13C NMR (DMSO-d6 +CD3OD+D2O): 168.56, 147.08, 141.37, 139,90, 135.89, 133.75, 131.94, 129.64, 127.93, 126.53, 124.35, 122.11, 118.74, 114.07, 57.78, 52.51, 49.74, 37.49, 30.53 ppm. IR (KBr): 2456, 2434, 1769, 1719, 1427, 1393, 1356 cm-1. CIMS (methane): 482 (100%).

reactant | 4- [4- (2-phenylethyl ) -1-piperazinyl]benzo[b]thiophene-2-methanol | 9.08 mmol, 3.20 g | C1(=CC=CC=C1)CCN1CCN(CC1)C1=CC=CC=2SC(=CC21)CO | C21H24N2OS
reactant | triphenylphosphine | 9.53 mmol, 2.50 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | phthalimide | 9.53 mmol, 1.40 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | diethyl azodicarboxylate | 9.53 mmol, 1.5 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | hydrochloric acid | 1.0M, 2.10 mL | Cl | ClH
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 2-[4-(4-phenethyl-piperazin-1-yl)-benzo[b]thiophen-2-ylmethyl]-isoindole-1,3-dione hydrochloride | 0.87 g | Cl.C(CC1=CC=CC=C1)N1CCN(CC1)C1=CC=CC=2SC(=CC21)CN2C(C1=CC=CC=C1C2=O)=O | InChI=1S/C29H27N3O2S.ClH/c33-28-23-9-4-5-10-24(23)29(34)32(28)20-22-19-25-26(11-6-12-27(25)35-22)31-17-15-30(16-18-31)14-13-21-7-2-1-3-8-21;/h1-12,19H,13-18,20H2;1H
